US04543360
1-Methyl-2-(2,6-dichloro-4-hydroxyphenyl)-4-chloro-6-hydroxy-indole
3.4 ml (35 mmole) of BBr3 were added with a syringe to a solution of 3.0 grams of 1-methyl-2-(2,6-dichloro-4-methoxy-phenyl)-4-chloro-6-methoxy-indole in 50 ml of water free methylene chloride at -70° C. After 30 minutes the cold bath was removed and the mixture was stirred overnight. The reaction mixture under ice cooling was carefully poured into a saturated aqueous sodium bicarbonate solution. The precipitate was filtered off with suction, washed with water and reprecipitated from methanol/water. Yield: 2.4 grams.

reactant | BBr3 | 35 mmole, 3.4 ml | B(Br)(Br)Br | BBr3
reactant | 1-methyl-2-(2,6-dichloro-4-methoxy-phenyl)-4-chloro-6-methoxy-indole | 3.0 grams | CN1C(=CC2=C(C=C(C=C12)OC)Cl)C1=C(C=C(C=C1Cl)OC)Cl | C17H14Cl3NO2
solvent | water | 50 ml | O | H2O
product | 1-Methyl-2-(2,6-dichloro-4-hydroxyphenyl)-4-chloro-6-hydroxy-indole | CN1C(=CC2=C(C=C(C=C12)O)Cl)C1=C(C=C(C=C1Cl)O)Cl | C15H10Cl3NO2
